US07465731B2
A mixture of (2E)-3-(5-{[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (600 mg) and 2N HCl/Ethanol (13.6 ml, 20 eq) was stirred at room temperature for 2 hours. After then, ethyl acetate (10 ml) and IPE (50 ml) was added and stirred. Precipitate was filtered, washed with IPE, and dried under reduced pressure to give 486 mg (83%) of (2E)-3-(5-{[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride as a powder.

reactant | (2E)-3-(5-{[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 600 mg | FC1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC=C1 | C23H28FN5O3
reactant | HCl Ethanol | 2N, 13.6 ml, 20 eq | Cl.C(C)O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (2E)-3-(5-{[(3R)-1-(2-fluorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide dihydrochloride | 486 mg, 83% | Cl.Cl.FC1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NO)C=CC=C1 | InChI=1S/C18H20FN5O2.2ClH/c19-16-4-2-1-3-13(16)11-24-8-7-15(12-24)22-17-10-20-14(9-21-17)5-6-18(25)23-26;;/h1-6,9-10,15,26H,7-8,11-12H2,(H,21,22)(H,23,25);2*1H/b6-5+;;/t15-;;/m1../s1
